data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)c(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(C)c1)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1C"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1C"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1C"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1C.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(NN=CCc2ccccc2)cc(OC)c1OC.Cl[Zn]Cl", "products": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(OC)c1OC"}, {"reactants": "COc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc(OC)c1OC", "products": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(OC)c1OC.[H+]"}, {"reactants": "COc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc(OC)c1OC", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(OC)cccc2OC)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(OC)cccc2OC)C(=N)C=C1", "products": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(OC)c1OC"}, {"reactants": "COc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(OC)c1OC", "products": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(OC)c1OC)C(c1ccccc1)C=[NH+]2", "products": "COc1cc2[nH]cc(-c3ccccc3)c2c(OC)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(F)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1ccc(F)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1ccc(F)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(OC)ccc1F", "products": "COc1ccc(F)c(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccccc1OC", "products": "COc1ccccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)COC)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)c(Cl)c1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1Cl)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1ccc(C)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(C)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(C)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1ccc(C)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(C)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1ccc(C)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1ccc(C)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1ccc(C)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1ccc(C)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1ccc(C)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1ccc(C)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1ccc(C)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1ccc(C)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(C)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1ccc(C)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
